US06110896
N-Phthalimidomethyl-L-leucyl-L-phenylalanine N-methylamide
A solution of L-leucyl-L-phenylalanine N-methylamide (1.3 g) in dichloromethane (13 ml) was treated with N-bromomethylphthalimide (1.17 g) and sodium iodide (0.06 g). The resulting yellow solution was stirred at room temperature for 16 h. The solution was treated with saturated sodium bicarbonate solution (ca. 8 ml) and extracted with dichloromethane. The crude, organic extracts were preadsorbed onto silica gel and purified by flash silica chromatography, eluting with ethyl acetate/heptane (5:1), to furnish the title compound as a white solid (0.74 g).

reactant | L-leucyl-L-phenylalanine N-methylamide | 1.3 g | CNC([C@@H](NC([C@@H](N)CC(C)C)=O)CC1=CC=CC=C1)=O | C16H25N3O2
reactant | N-bromomethylphthalimide | 1.17 g | BrCN1C(C=2C(C1=O)=CC=CC2)=O | C9H6BrNO2
reactant | sodium iodide | 0.06 g | [I-].[Na+]
reactant | sodium bicarbonate | ca. 8 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
product | N-Phthalimidomethyl-L-leucyl-L-phenylalanine N-methylamide | 0.74 g | CNC([C@@H](NC([C@@H](NCN1C(C=2C(C1=O)=CC=CC2)=O)CC(C)C)=O)CC2=CC=CC=C2)=O | C25H30N4O4
